US06403610B1
A solution of 0.5 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylate in 7.8 cm3 of 6N hydrochloric acid was heated with stirring at a temperature in the region of 100° C. for 2 hours. After concentrating the reaction mixture to dryness under reduced pressure (5 kPa) at a temperature in the region of 80° C. the residue obtained was triturated in 10 cm3 of diisopropyl ether. The insoluble material was filtered off and then dried under reduced pressure (13 kPa) at a temperature in the region of 60° C. 0.55 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylic acid trihydrochloride was obtained in the form of a solid with a cream color which melts with softening in the region of 165° C.

reactant | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylate | 0.5 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC1=NC=CC=C1)C(=O)OC | C27H33N3O3S
reactant | hydrochloric acid | 6N, 7.8 cm3 | Cl | ClH
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylic acid trihydrochloride | 0.55 g | Cl.Cl.Cl.COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC1=NC=CC=C1)C(=O)O | InChI=1S/C26H31N3O3S.3ClH/c1-32-21-8-9-24-22(17-21)19(10-13-27-24)5-4-6-20-11-14-29(18-23(20)26(30)31)15-16-33-25-7-2-3-12-28-25;;;/h2-3,7-10,12-13,17,20,23H,4-6,11,14-16,18H2,1H3,(H,30,31);3*1H/t20-,23+;;;/m1.../s1
